US07074800B1
5-Benzyloxy-6-methoxyindole (253 mg, 11.0 mmol) was hydrogenated at 1 atmosphere pressure in methanol (10 ml) with 10% palladium on carbon (50 mg) for 2 hours at 25° C. The catalyst was filtered off and the filtrate evaporated to give 5-hydroxy-6-methoxylindole (141 mg, 87%).

reactant | 5-Benzyloxy-6-methoxyindole | 11.0 mmol, 253 mg | C(C1=CC=CC=C1)OC=1C=C2C=CNC2=CC1OC | C16H15NO2
solvent | methanol | 10 ml | CO | CH4O
catalyst | palladium on carbon | 50 mg | [Pd] | Pd
product | 5-hydroxy-6-methoxylindole | 141 mg, 87% | OC=1C=C2C=CNC2=CC1OC | C9H9NO2
